US09351965B2
Preparation of tert-butyl 3-(2-fluorophenoxy)cyclohexylcarbamate
A reaction mixture of tert-butyl 3-hydroxycyclohexylcarbamate (4 mmol, 861 mg), 1-fluoro-2-iodobenzene (5 mmol, 585 4), copper iodide (0.4 mmol, 76 mg), 3,4,7,8-tetramethyl-1,10-phenanthroline (0.8 mmol, 190 mg) and cesium carbonate (10 mmol, 3.26 g) in toluene (5 mL) was stirred at 110° C. for overnight under argon. The reaction mixture was cooled to room temperature and filtered through celite. The filtrate was concentrated. The mixture was purified by silica gel column chromatography. The product, tert-butyl 3-(2-fluorophenoxy)cyclohexylcarbamate, was eluted off the column using 15% EtOAc in Hexane.

reactant | tert-butyl 3-hydroxycyclohexylcarbamate | 4 mmol, 861 mg | OC1CC(CCC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | 1-fluoro-2-iodobenzene | 5 mmol | FC1=C(C=CC=C1)I | C6H4FI
reactant | 3,4,7,8-tetramethyl-1,10-phenanthroline | 0.8 mmol, 190 mg | CC=1C=NC2=C3N=CC(=C(C3=CC=C2C1C)C)C | C16H16N2
reactant | cesium carbonate | 10 mmol, 3.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 0.4 mmol, 76 mg | [Cu](I)I
product | tert-butyl 3-(2-fluorophenoxy)cyclohexylcarbamate | FC1=C(OC2CC(CCC2)NC(OC(C)(C)C)=O)C=CC=C1 | C17H24FNO3
